US05084085
To a stirred mixture of 0.91 g (0.019 mole) of sodium hydride in 30 mL of N,N-dimethylformamide was added slowly a solution of 5.50 g (0.019 mole) of 1-[4-chloro-2-fluoro-5-hydroxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one in 30 mL of N,N-dimethylformamide. To this mixture was added 2.68 g (0.019 mole) of 4-fluoronitrobenzene. The resultant mixture was stirred at room temperature for approximately 18 hours and then was heated at 80° C. for one hour. The mixture was allowed to cool and was poured into ice water. The aqueous mixture was extracted with diethyl ether. The extract was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure to yield 6.0 g of 1-[4-chloro-2-fluoro-5-(4-nitrophenoxy)phenyl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one as a solid, m.p. 115°-117° C., Compound 4 of Table 1.

reactant | sodium hydride | 0.019 mole, 0.91 g | [H-].[Na+]
reactant | 1-[4-chloro-2-fluoro-5-hydroxyphenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 0.019 mole, 5.50 g | ClC1=CC(=C(C=C1O)N1N=C(N(C1=O)C(F)F)C)F | C10H7ClF3N3O2
reactant | 4-fluoronitrobenzene | 0.019 mole, 2.68 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 1-[4-chloro-2-fluoro-5-(4-nitrophenoxy)phenyl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 6.0 g | ClC1=CC(=C(C=C1OC1=CC=C(C=C1)[N+](=O)[O-])N1N=C(N(C1=O)C(F)F)C)F | C16H10ClF3N4O4
